US05175301
In 35 ml of toluene, 3,79 g (0.0169 mole) of N-(6-chloro-3-pyridylmethyl)-N-(2,2,2-trifluoroethyl)amine and 2.46 g of methyl isothiocyanate were stirred for 18 hours under reflux. The toluene was distilled off, and the residue was dissolved in 120 ml of AcOEt, washed with 1N HCl (two times) and aqueous sodium chloride solution in this order and dried over MgSO4. The AcOEt was distilled off to give oil. To this oily product were added Et2O and hexane, followed by cooling to give crystals. After addition of hexane to the mixture, the crystals were collected by filtration and dried to give 2.78 g of N-(6-chloro-3-pyridylmethyl)-N-(2,2,2-trifluoroethyl)-N'-methylthiourea as white crystals.

reactant | N-(6-chloro-3-pyridylmethyl)-N-(2,2,2-trifluoroethyl)amine | 0.0169 mole, 3,79 g | ClC1=CC=C(C=N1)CNCC(F)(F)F | C8H8ClF3N2
reactant | methyl isothiocyanate | 2.46 g | CN=C=S | C2H3NS
reactant | Et2O | CCOCC | C4H10O
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | N-(6-chloro-3-pyridylmethyl)-N-(2,2,2-trifluoroethyl)-N'-methylthiourea | 2.78 g | ClC1=CC=C(C=N1)CN(C(=S)NC)CC(F)(F)F | C10H11ClF3N3S
